US07737166B2
3-Benzyloxy-2,2-dimethylpropionic acid (I-62)
3-Benzyloxy-2,2-dimethylpropionitrile (2.0 g, 10.6 mmol), potassium hydroxide (31.2 g, 86%, 479 mmol) and potassium carbonate (1.13 g, 82 mmol) were dissolved in methanol (340 ml), concentrated under reduced pressure. The resulting residue was heated at 140° C. (bath temperature) under nitrogen atmosphere, and stirred for 22 hours. The reaction mixture was dissolved in water, cooled in an ice-water bath, followed by controlling at pH of 1 with hydrochloric acid (36%) added thereto. The organic matter was extracted with diethyl ether, washed with saturated brine, dried on anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure to obtain the entitled compound (2.18 g, 99%) as a colorless solid.

reactant | 3-Benzyloxy-2,2-dimethylpropionitrile | 10.6 mmol, 2.0 g | C(C1=CC=CC=C1)OCC(C#N)(C)C | C12H15NO
reactant | potassium hydroxide | 479 mmol, 31.2 g | [OH-].[K+]
reactant | potassium carbonate | 82 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 340 ml | CO | CH4O
product | 3-Benzyloxy-2,2-dimethylpropionic acid | 2.18 g, 99% | C(C1=CC=CC=C1)OCC(C(=O)O)(C)C | C12H16O3
